* Ideal Op Amp Model
.subckt Ideal_OpAmp 1 2 3
.param p_gbw=1000Meg
.param p_a0=1Meg
.param p_pi=3.14159265

* --- Stage 1: Input Gain & Pole Generation ---
G1 0 int_node 1 2 1.0
R1 int_node 0 {p_a0}
C1 int_node 0 {1.0 / (2.0 * p_pi * p_gbw)}

* --- Stage 2: Ideal Output Buffer ---
Eout 3 0 int_node 0 1.0
.ends Ideal_OpAmp